US07846929B2
4-(4-morpholino-2-(1H-pyrrolo[2,3-b]pyridin-5-yl)thieno[3,2-d]pyrimidin-6-yl)thiazol-2-amine 429
4-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)thiazol-2-amine was reacted with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine via General Procedure B to give, after purification by reverse HPLC, 41 mg of 429. MS (Q1) 436 (M+)

reactant | 4-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)thiazol-2-amine | ClC=1N=C(C2=C(N1)C=C(S2)C=2N=C(SC2)N)N2CCOCC2 | C13H12ClN5OS2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)NC=C2)C | C13H17BN2O2
product | 4-(4-morpholino-2-(1H-pyrrolo[2,3-b]pyridin-5-yl)thieno[3,2-d]pyrimidin-6-yl)thiazol-2-amine | O1CCN(CC1)C=1C2=C(N=C(N1)C=1C=C3C(=NC1)NC=C3)C=C(S2)C=2N=C(SC2)N | C20H17N7OS2
